US05877197
N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-(2',6'-Dichorobenzyloxy)Pentanoic Acid
A solution of N-[(1,3-Dimethylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2',6'-dichorobenzyloxy)pentanoic acid, t-butyl ester (49 mg) in anisole (0.2 mL) and methylene chloride (2 mL) was treated with TFA (1 mL) and stirred for 30 minutes under a nitrogen atmosphere at room temperature. The resultant solution was concentrated and chased with methylene chloride to give a white solid as the crude product. The crude product was triturated with ether to yield the title product as a white powder (34 mg). MS for C28H31Cl2N3O6 ; MH+ =576/578; (MH)31 =574/576.

reactant | N-[(1,3-Dimethylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2',6'-dichorobenzyloxy)pentanoic acid, t-butyl ester | 49 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COCC1=C(C=CC=C1Cl)Cl)=O | C32H39Cl2N3O6
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 0.2 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-(2',6'-Dichorobenzyloxy)Pentanoic Acid | 34 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(COCC1=C(C=CC=C1Cl)Cl)=O | C28H31Cl2N3O6
